US08703941B2
A solution of 4-N-[5-bromo-6-methylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (300 mg, 0.81 mmol, 1.00 equiv) in anhydrous toluene (6 mL) was added (1-benzofuran-2-yl)boronic acid (292 mg, 1.80 mmol, 2.30 equiv), sodium carbonate (286 mg, 2.70 mmol, 3.40 equiv), PPh3 (79 mg, 0.30 mmol, 0.35 equiv), Pd(OAc)2 (22 mg, 0.10 mmol, 0.12 equiv) and water (2 mL) at room temperature under nitrogen. The resulting mixture was stirred for 6 h at 100° C. in an oil bath. After cooled to room temperature, the reaction was then quenched water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (8:1) to give the desired 4-N-[5-(1-benzofuran-2-yl)-6-methylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (120 mg, 36%) as a off-white solid. MS (ES, m/z): 407 [M+H+]. 1H NMR (300 MHz, CDCl3) δ 8.46 (s, 1H), 7.71 (d, 1H), 7.57 (m, 2H), 6.86 (s, 1H), 5.62 (d, 1H), 4.00 (m, 1H), 2.59 (s, 3H), 2.33 (s, 6H), 2.13 (m, 3H), 1.94 (m, 2H), 1.44 (dd, 2H), 0.98 (dd, 2H).

reactant | 4-N-[5-bromo-6-methylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 0.81 mmol, 300 mg, 1.00 equiv | BrC1=C(SC=2N=CN=C(C21)NC2CCC(CC2)N(C)C)C | C15H21BrN4S
reactant | (1-benzofuran-2-yl)boronic acid | 1.80 mmol, 292 mg, 2.30 equiv | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | sodium carbonate | 2.70 mmol, 286 mg, 3.40 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | PPh3 | 0.30 mmol, 79 mg, 0.35 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.10 mmol, 22 mg, 0.12 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 2 mL | O | H2O
product | 4-N-[5-(1-benzofuran-2-yl)-6-methylthieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 120 mg, 36% | O1C(=CC2=C1C=CC=C2)C2=C(SC=1N=CN=C(C12)NC1CCC(CC1)N(C)C)C | C23H26N4OS
